US07812040B2
2,5-Dichloro-4-pyrrolidin-1-ylmethyl-phenol.
Pyrrolidine (0.48 mL, 5.76 mmol) was added to a suspension of Intermediate 24, 2,5-Dichloro-4-hydroxybenzaldehyde (0.88 g, 4.6 mmol) in dichloromethane (10 mL). The reaction mixture was cooled with an ice bath. Sodium triacetoxyborohydride (1.22 g, 5.76 mmol) was added in portions under stirring. The reaction mixture was stirred for 12 h at room temperature. Water (20 mL) and dichloromethane (10 mL) were added. The reaction mixture was acidified with 5N NAHSO4 to pH˜2. The organic layer was separated. The aqueous one was subjected to extraction with CH2Cl2 (2×30 mL), and the extracts were discarded. The aqueous fraction was alkalized with a saturated solution of potassium carbonate to pH 9-10. The product was extracted with CH2Cl2 (3×20 mL). The organic layer was dried with anhydrous Na2SO4 (5 g). The solvent was evaporated in vacuo, and coevaporated with dioxane to give the title compound (0.89 g, 3.6 mmol, 79%) as pale-yellow crystals. LC/MS data: 248.0, 247.0 and 246.0 (M+H); 174.9 (M-pyrrolidine+H) (calculated for C11H13ClNO 246.1). 1H NMR data (DMSO-d6): 10.52 (br.s., 1H, OH); 7.38 (s, 1H, s Ar—H); 6.98 (s, 1H, Ar—H); 3.54 (s, 2H, CH2Ar); 2.40-2.47 (m, 4H); 1.63-1.74 (m, 4H).

reactant | Pyrrolidine | 5.76 mmol, 0.48 mL | N1CCCC1 | C4H9N
reactant | 2,5-Dichloro-4-hydroxybenzaldehyde | 4.6 mmol, 0.88 g | ClC1=C(C=O)C=C(C(=C1)O)Cl | C7H4Cl2O2
reactant | Sodium triacetoxyborohydride | 5.76 mmol, 1.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 20 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,5-Dichloro-4-pyrrolidin-1-ylmethyl-phenol | 3.6 mmol, 0.89 g, 79% | ClC1=C(C=C(C(=C1)CN1CCCC1)Cl)O | C11H13Cl2NO
